US05646173
A solution of 50.0 g of 5-methoxy-1-indanone, 80 ml of 3-buten-2-ol, 132 ml of 2,2-dimethoxypropane and 600 mg of p-toluenesulfonic acid in 500 ml of toluene was brought to boiling. The resulting methanol/acetone mixture was distilled off and the reaction solution was subsequently boiled under reflux for an additional 48 hours. After cooling, the solution was evaporated in a vacuum. Purification on silica gel (hexane/diethyl ether 5:1) yielded 19.2 g (31%) of (RS)-2-(2-buten-1-yl)-5-methoxy-1-indanone as a pale yellow oil.

reactant | 5-methoxy-1-indanone | 50.0 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | 3-buten-2-ol | 80 ml | CC(C=C)O | C4H8O
reactant | 2,2-dimethoxypropane | 132 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid | 600 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-2-(2-buten-1-yl)-5-methoxy-1-indanone | 19.2 g, 31% | C(C=CC)C1C(C2=CC=C(C=C2C1)OC)=O | C14H16O2
